US07741315B2
Step 4: 1-[(tert-Butyloxycarbonyl)amino]-2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine
A mixture of 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid (0.31 g, 0.62 mmol), triethylamine (0.101 mL, 0.74 mmol), and diphenylphosphoryl azide (0.19 g, 0.69 mmol) in a mixture of anhydrous dioxane (6 mL) and anhydrous tert-butanol (6 μL) was heated at 90° C. overnight. The reaction mixture was concentrated under vacuum. The residue was subject to column chromatography on silica gel. Collection and concentration of appropriate fractions provided the title compound. ES MS M+1=566

reactant | 2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | 0.62 mmol, 0.31 g | C(C)(C)(C)OC(CN1C(=C2CCN(C(C2=C(C1=O)OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)O)=O | C23H24ClFN2O7
reactant | triethylamine | 0.74 mmol, 0.101 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.69 mmol, 0.19 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | dioxane | 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butanol | 6 μL | C(C)(C)(C)O | C4H10O
product | 1-[(tert-Butyloxycarbonyl)amino]-2-(2-tert-butoxy-2-oxoethyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine | C(C)(C)(C)OC(=O)NC=1N(C(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CC(=O)OC(C)(C)C | C27H33ClFN3O7
